US04532240
N-[4-[4-(2,4-Diamino-6-methyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-glycine
A mixture of 1.5 g (3.76 mmole) of N-[4-[4-(2,4-diamino-6-methyl-5-pyrimidinyl)-1-piperazinyl]benzoylglycine methyl ester and 3.8 ml (3.8 mmole of a 1N aqueous sodium hydroxide solution in 500 ml of methanol was stirred at room temperature for 16 hours. The reaction mixture remained cloudy. A solution of 0.4 ml of 1N sodium hydroxide in 200 ml of methanol was added and the reaction mixture was stirred for another two hours and became clear solution. Methanol was removed in vacuo. The solid residue was dissolved in 200 ml of water and filtered. The filtrate was acidified with citric acid to pH 6. The precipitate was collected, washed with water, and triturated with 200 ml of boiling methanol. After drying in vacuo at 78° C. for 16 hours, 1.30 g of the product was obtained as white powder, mp>310° C.

reactant | 4-[4-(2,4-diamino-6-methyl-5-pyrimidinyl)-1-piperazinyl]benzoylglycine methyl ester | COC(CNC(C1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC(=NC1C)N)N)=O)=O | C19H25N7O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 0.4 ml | [OH-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | N-[4-[4-(2,4-Diamino-6-methyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-glycine | 1.30 g | NC1=NC(=C(C(=N1)N)N1CCN(CC1)C1=CC=C(C(=O)NCC(=O)O)C=C1)C | C18H23N7O3
